US05063061
Furthermore, [9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3-yl]acetic acid (to be referred to as AS-148) and 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-[2-(1H-tetrazol-5-yl)ethyl]-4H-pyrido[1,2-a]pyrimidin-4-one (to be referred to as AS-163) could not be formed into an aqueous solution as AS-35 could not. The present inventors confirmed the above finding by their own experiments.

reactant | [9-(4-acetyl-3-hydroxy-2-n-propylphenoxymethyl)-4-oxo-pyrido[1,2-a]pyrimidin-3-yl]acetic acid | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)CC(=O)O)C=C1)CCC)O | C22H22N2O6
reactant | 9-[(4-acetyl-3-hydroxy-2-n-propylphenoxy)methyl]-3-[2-(1H-tetrazol-5-yl)ethyl]-4H-pyrido[1,2-a]pyrimidin-4-one | C(C)(=O)C1=C(C(=C(OCC2=CC=CN3C2=NC=C(C3=O)CCC3=NN=NN3)C=C1)CCC)O | C23H24N6O4
product | AS-35 | CCCC1=C(C=CC(=C1O)C(=O)C)OCC2=CC=CN3C2=NC=C(C3=O)C4=NNN=N4 | C21H20N6O4
